US04348410
A suspension of trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride (1.2 g) and thionyl chloride (15 ml) was stirred at room temperature for 3 hours. Thereafter, excess thionyl chloride was removed by distillation under reduced pressure. The residue was washed with anhydrous ethyl ether to obtain trans-4-guanidinomethylcyclohexanecarboxylic acid chloride hydrochloride (1.2 g) as colorless powder.

reactant | trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 1.2 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | trans-4-guanidinomethylcyclohexanecarboxylic acid chloride hydrochloride | 1.2 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)Cl | InChI=1S/C9H16ClN3O.ClH/c10-8(14)7-3-1-6(2-4-7)5-13-9(11)12;/h6-7H,1-5H2,(H4,11,12,13);1H/t6-,7-;
